US07592362B2
2-Amino-3-bromo-5-methylbenzoic acid
To a solution of 2-amino-5-methylbenzoic acid (25.0 g, 170 mmol) in acetic acid (250 ml) was added bromine (10 ml, 195 mmol) and the reaction mixture was stirred at room temperature for 2 h. The mixture was filtered and the solid material was washed with water and cyclohexane and dried to give the title compound (33.4 g).

reactant | 2-amino-5-methylbenzoic acid | 170 mmol, 25.0 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | bromine | 195 mmol, 10 ml | BrBr | Br2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-3-bromo-5-methylbenzoic acid | 33.4 g | NC1=C(C(=O)O)C=C(C=C1Br)C | C8H8BrNO2
